US07282588B2
N-(4-{4-[2-(4-formylphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide
Following the procedure described for Intermediate 32 using 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde and then following the procedure described for Intermediate 100 with N-[4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]-1-pyrrolidinecarboxamide provided the title compound. ESMS [M+H]+: 631.4.

reactant | 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=O)C=C2)S(=O)(=O)C2=CC=CC=C2 | C20H13BrN2O3S
reactant | N-[4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]-1-pyrrolidinecarboxamide | BrC=1C(=NN(C1)C)C1=CC=C(C=C1)NC(=O)N1CCCC1 | C15H17BrN4O
product | N-(4-{4-[2-(4-formylphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide | C(=O)C1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)NC(=O)N2CCCC2)N1S(=O)(=O)C1=CC=CC=C1 | C35H30N6O4S
